US03983124
A mixture of 18.8 g (0.05 mole) of 2,7-bis(4-chlorobutyryl)fluorene, 34.0 g (0.4 mole) of piperidine, and 16.6 g (0.1 mole) of potassium iodide in 200 ml of butanone is stirred and refluxed for 3 days. The reaction mixture is poured into 1000 ml of water, and the solid which precipitates is filtered and recrystallized twice from chloroform-acetone to give the desired 2,7-bis(4-piperidinobutyryl)fluorene as the free base.

reactant | 2,7-bis(4-chlorobutyryl)fluorene | 0.05 mole, 18.8 g | ClCCCC(=O)C1=CC=2CC3=CC(=CC=C3C2C=C1)C(CCCCl)=O | C21H20Cl2O2
reactant | piperidine | 0.4 mole, 34.0 g | N1CCCCC1 | C5H11N
reactant | potassium iodide | 0.1 mole, 16.6 g | [I-].[K+]
reactant | water | 1000 ml | O | H2O
solvent | butanone | 200 ml | CC(CC)=O | C4H8O
product | 2,7-bis(4-piperidinobutyryl)fluorene | N1(CCCCC1)CCCC(=O)C1=CC=2CC3=CC(=CC=C3C2C=C1)C(CCCN1CCCCC1)=O | C31H40N2O2
